US08304419B2
Step B: 4-chloro-N-{[4-chloro-3-({3-chloro-5-[(E)-2-cyanoethenyl]phenyl}oxy)-2-fluorophenyl]methyl}-2-ethyl-1H-imidazole-5-carboxamide
A solution of diethylphosphonoacetonitrile (15 μL, 0.094 mmol) in THF (1 mL) was cooled to 5° C. in an ice bath and potassium t-butoxide (1 M in THF, 94 μL, 0.094 mmol) was added dropwise. The reaction was stirred at 5° C. for 30 min and a solution of 4-chloro-N-({4-chloro-3-[(3-chloro-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-2-ethyl-1H-imidazole-5-carboxamide (40 mg, 0.085 mmol) in THF (1 mL) was added dropwise. The reaction was stirred at 5° C. for 30 min, warmed to room temperature and stirred for an additional 60 min. The reaction was quenched with water (1 mL) and concentrated to a yellow oil. The crude material was purified by column chromatography (10% to 100% EtOAc/hexanes gradient) to afford the title compound (32 mg, 76%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.69 (s, 1H), 8.05 (t, 1H), 7.58 (d, 1H), 7.53 (s, 1H), 7.47-7.44 (m, 1H), 7.31 (t, 1H), 7.23 (s, 1H), 7.00 (s, 1H), 6.58 (d, 1H), 4.49 (d, 2H), 2.55 (q, 2H), 1.13 (t, 3H). MS: m/z 493, 495 (M+1).

reactant | diethylphosphonoacetonitrile | 0.094 mmol, 15 μL | C(C)OP(=O)(OCC)CC#N | C6H12NO3P
reactant | potassium t-butoxide | 0.094 mmol, 1 M, 94 μL | CC(C)([O-])C.[K+]
reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-2-ethyl-1H-imidazole-5-carboxamide | 0.085 mmol, 40 mg | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=O)Cl)F)CC | C20H15Cl3FN3O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-{[4-chloro-3-({3-chloro-5-[(E)-2-cyanoethenyl]phenyl}oxy)-2-fluorophenyl]methyl}-2-ethyl-1H-imidazole-5-carboxamide | 32 mg, 76% | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)\C=C\C#N)Cl)F)CC | C22H16Cl3FN4O2
